US06630004B1
Synthesis of Nε-(4-Aminophenyl)-L-lysine Trihydrochloride
2 g (7.48 mmol) of Nε-(4-nitrophenyl)-L-lysine are dissolved in 30 ml of ethanol, 9 ml of water and 5.2 ml (3.5 eq) of 5N hydrochloric acid in a 250 ml glass reactor (Paar apparatus). 2 g of palladium-on-charcoal with a moisture content of 50% and an active content of 10% are then introduced. The mixture is hydrogenated under a pressure of approximately 2.76×105 Pa for 1 hour and at a temperature of 10° C. After filtering through celite, the filtrate is evaporated. The purplish oily residue is taken up in ethanol and precipitated from a large volume of acetone with stirring. After filtration, 2.6 g of a white crystalline powder are obtained, i.e. a final yield of 99%.

reactant | Nε-(4-nitrophenyl)-L-lysine | 7.48 mmol, 2 g | [N+](=O)([O-])C1=CC=C(C=C1)NCCCC[C@H](N)C(=O)O | C12H17N3O4
reactant | water | 9 ml | O | H2O
reactant | hydrochloric acid | 5N, 5.2 ml, 3.5 eq | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 2 g | [Pd] | Pd
product | Nε-(4-Aminophenyl)-L-lysine Trihydrochloride | yield of 99% | Cl.Cl.Cl.NC1=CC=C(C=C1)NCCCC[C@H](N)C(=O)O | InChI=1S/C12H19N3O2.3ClH/c13-9-4-6-10(7-5-9)15-8-2-1-3-11(14)12(16)17;;;/h4-7,11,15H,1-3,8,13-14H2,(H,16,17);3*1H/t11-;;;/m0.../s1
